US04530747
160 g of 2-bromoethylphenyl ether are added to a mixture of 94 g of phenol, 30 ml of water and 60 g of sodium hydroxide, at a temperature of 100° C. After a reaction time of 16 hours, the mixture is poured into water, filtered by suction, and the product is recrystallized from ethyl acetate. 90 g (53%) of 1,2-diphenoxy ethane having a melting point of 95° C. are obtained.

reactant | 2-bromoethylphenyl ether | 160 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | phenol | 94 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 60 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | 1,2-diphenoxy ethane | 90 g, 53% | O(C1=CC=CC=C1)CCOC1=CC=CC=C1 | C14H14O2
